US07678905B2
A solution of methyl hydrazine (0.11 mL) and (4Z)-4-[(dimethylamino)methylene]-1-tritylpyrrolidin-3-one (678 mg) in ethanol (5 mL) was heated at 84° C. in a sealed tube for 3 h. Solvent was removed under reduced pressure and the residue was purified on a Biotage Horizon® system (silica, 5% methanol/0.5% concentrated ammonium hydroxide/94.5% dichloromethane) to yield 1-methyl-5-trityl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazole.

reactant | methyl hydrazine | 0.11 mL | CNN | CH6N2
reactant | (4Z)-4-[(dimethylamino)methylene]-1-tritylpyrrolidin-3-one | 678 mg | CN(C)\C=C\1/C(CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H26N2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-methyl-5-trityl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazole | CN1N=CC2=C1CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H23N3
